Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Epigastic pain, pneumoperitoneum.
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy with ___ patch and EGD - ___

 
History of Present Illness:
___ year old female with complaint of  acute onset epigastric 
pain the morning of admission at 7am while drinking coffee.  
Taken to Outside hospital (OSH) and found to have free air on CT 
scan.  Patient's family requested transfer to tertiary care 
center.  Patient reports mild nausea but no vomiting.  No melena 
or hematochezia.  No chest pain or SOB.  No dysuria, fevers, or 
chills.  Patient
reports taking diclofenac for past ___ years for her chronic knee 
pain.  No previous ulcer history.  

 
Past Medical History:
PMHx: DM 2, HTN, polymyalgia rheumatica
.
PSHx: thyroidectomy for Graves disease

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
On Admission:
VS: 98  70  158/80  18  93 2L
Gen-somewhat drowsy, AAOx3, NAD
HEENT-anicteric
CV-RRR
Pulm-CTA b/l
Abd-distended, firm, positive guarding, no rebound tenderness. 
No masses or hernias.
Ext-no edema, cyanosis
.
At Discharge:
VS: 98.8 PO, 69, 145/74, 18, 93% RA
GEN: Well appearing female in NAD.
HEENT: Sclerae anicteric. O-P clear.
NECK: Supple.
LUNGS: CTA(B)
COR: RRR
ABD: Midline incision with staples c/d/i. Prior JP site (now 
discontinued) healing well; DSD applied. BSx4. Apporpiately 
tender to palpation along incision, otherwise soft/NT/ND.
EXTREM: No c/c/e
NEURO: A+Ox3. Non-focal/grossly intact.

 
Pertinent Results:
On Admission:

___ 08:56PM   GLUCOSE-154* UREA N-14 CREAT-1.0 SODIUM-139 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-18* ANION GAP-24*
___ 08:56PM   CALCIUM-9.1 PHOSPHATE-4.4 MAGNESIUM-2.0
___ 08:56PM   WBC-14.7* RBC-4.34 HGB-13.5 HCT-42.2 MCV-97 
MCH-31.1 MCHC-32.1 RDW-14.4
___ 08:56PM   PLT COUNT-330
___ 05:55PM   K+-4.7
___ 04:43PM   GLUCOSE-177* NA+-137 K+-7.5* CL--100 TCO2-23
___ 04:30PM   GLUCOSE-175* UREA N-17 CREAT-1.0 SODIUM-134 
POTASSIUM-7.6* CHLORIDE-99 TOTAL CO2-23 ANION GAP-20
___ 04:30PM   CALCIUM-9.5 PHOSPHATE-4.5 MAGNESIUM-2.3
___ 04:30PM   WBC-16.3* RBC-4.34 HGB-13.4 HCT-41.2 MCV-95 
MCH-30.9 MCHC-32.6 RDW-14.4
___ 04:30PM   NEUTS-64 BANDS-24* LYMPHS-4* MONOS-8 EOS-0 
BASOS-0 ___ MYELOS-0
___ 04:30PM   PLT SMR-NORMAL PLT COUNT-296
___ 04:30PM   ___ PTT-20.1* ___
.
___ HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
POSITIVE BY EIA. 
.
IMAGING:
___ CXR:
NG tube tip is in the stomach. The sideport is distal to the GE 
junction.  Bibasilar atelectases are greater on the right side. 
The right hemidiaphragm is slightly elevated. There is no 
pneumothorax. Cardiac size is normal. If any, there are small 
bilateral pleural effusions. 
.
MICROBIOLOGY:
___ 7:00 pm SWAB
      Fluid should not be sent in swab transport media.  Submit 
fluids in a
      capped syringe (no needle), red top tube, or sterile cup. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      A swab is not the optimal specimen collection to evaluate 
body
      fluids. 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE 
GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment of the aforementioned 
complaint.  On ___, the patient underwent  exploratory 
laparotomy with ___ patch and EGD, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO, on IV fluids, with a foley 
catheter and JP drain in place, and a Morphine PCA for pain 
control.  She was started on empiric IV Zosyn and Fluconazole. 
The patient was hemodynamically stable.
.
Neuro: The patient used the Morphine PCA with good effect and 
adequate pain control.  When tolerating oral intake, the patient 
was transitioned to oral pain medications with continued good 
effect.
.
CV: While NPO, the patient was placed on Metoprolol IV for 
hypertension with good effect. When able to tolerate a diet, she 
was changed back to home dose of Atenolol. On POD#8, the patient 
experienced a transient run of V-Tach on telemetry. She was 
asymptomatic, denying any chest pain, SOB, lightheadedness or 
fatigue. An ECG and cardiac enzymes were unremarkable. 
Electrolytes were notable for a potassium of 2.9. She received 
repletement without further episode of V-Tach or other 
arrythmia. The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
.
Pulmonary: Post-operatively, the patient experienced mild 
bibasilar rales and continued oxygen demand. A CXR revealed 
bibasilar atelectasis. She was started on Albuterol/Atrovent 
nebulizer treatments and aggressive respiratory toilet was 
emphasized with good response. The patient remained stable from 
a pulmonary standpoint; vital signs were routinely monitored. 
Good pulmonary toilet, early ambulation and incentive 
spirrometry were encouraged throughout hospitalization.
.
GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. On POD#1, she required a total IV fluid bolus of 1 liter 
for low urine output with good response. The NG tube was 
retained until POD#5. Once discontinued, the patient was started 
on sips. Diet was progressively advanced as tolerated to regular 
by POD#8. The foley catheter was discontinued on POD#2; the 
patient was subsequently able to void without problem. Patient's 
intake and output were closely monitored, and IV fluid was 
adjusted when necessary.  Electrolytes were routinely followed, 
and repleted when necessary. The JP was discontinued on POD#8.
.
ID: Post-operatively, the patient was empirically started on IV 
Zosyn and Fluconazole. Zosyn was discontinued on POD#7. The 
patient will complete a total of 14 days of Fluconazole, with 6 
days remaining at discharge. On POD#2, the Helicobacter pylori 
antibody test was returned positive. When able to take PO 
intake, the patient was started on treatment of the H. pylori 
consisting on a two week course of Amoxacillin 1000mg PO BID, 
Clarithromycin 500mg PO BID, and Protonix 40mg BID. The 
patient's white blood count and fever curves were closely 
watched for signs of infection.  The midline incision with 
staples remained clean and intact. Staples will be due to be 
removed on ___.
.
Endocrine: The patient's blood sugar was monitored throughout 
his stay; sliding scale insulin dosing was adjusted accordingly. 
She did not require exogenous insulin at discharge. She was 
continued on her home dose of Levothyroxine 112mcg daily.
.
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating with assistance, voiding without assistance, 
and pain was well controlled.  She was discharged to an extended 
care facility. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
1. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).   
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.
4. ASA 81mg 1 tablet PO daily.
5. Calcium citrate as directed
6. Diclofenac 150mg 1 tablet PO daily
7. Lasix 20mg 1 tablet PO daily PRN
 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb
neb Inhalation Q6H (every 6 hours) as needed for shortness of 
breath or wheezing.  
2. Ipratropium Bromide 0.02 % Solution Sig: One (1) nebs 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
3. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Oxycodone-Acetaminophen ___ mg/5 mL Solution Sig: ___ MLs 
PO Q4H (every 4 hours) as needed for pain.  
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours) for 
10 days: H. pylori Tx. Completion date: ___ continue 
Pantoprazole 40mg PO daily PRN after H. pylori Tx completed.  
7. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Clarithromycin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days: H. pylori Tx. Completion Date: ___.  
9. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO once a day 
for 5 days: Completion date: ___.  
10. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.  
12. Fish Oil Omega ___ 300-1,000 mg Capsule, Delayed 
Release(E.C.) Sig: One (1) Capsule, Delayed Release(E.C.) PO 
once a day.  
13. Calcium Citrate  Oral
14. Amoxicillin 500 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 10 days: H. pylori ___. Completion Date: ___.  
 .  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Perforated duodenal ulcer
2. H. pylori antibody positve

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
Do NOT take Aspirin or NSAIDS (i.e. Ibuprofen, Aleve, Naprosyn, 
Motrin, Diclofenac, etc.) due to the duodenal ulcer.

Otherwsie, please resume all regular home medications , unless 
specifically advised not to take a particular medication.  Also, 
please take any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___